US04221796
A suspension of 2-chloroacetamide (122.6 g, 1.31 mol) in 300 ml of 1,2-dichloroethane is cooled to 0° C. and treated with oxalyl chloride (200 g, 1.57 mol). The reaction mixture is heated at reflux for 4 hours. After cooling to 5° C., 68 ml of MeOH is added dropwise while keeping the internal temperature below 15° C. with external cooling. After addition is complete, the product is separated by filtration and washed with CH2Cl2 and Et2O. Recrystallization from CH2Cl2 yields methyl(chloroacetyl)carbamate.

reactant | 2-chloroacetamide | 1.31 mol, 122.6 g | ClCC(=O)N | C2H4ClNO
reactant | oxalyl chloride | 1.57 mol, 200 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | MeOH | 68 ml | CO | CH4O
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
product | methyl(chloroacetyl)carbamate | COC(NC(CCl)=O)=O | C4H6ClNO3
